US06762321B2
Two hundred milligrams (200 mg) of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide (0.586 mmol), 28 mg (0.70 mmol) of 60% sodium hydride, 2 ml of anhydrous N,N-dimethylformamide and 1 ml of anhydrous diethyl ether were mixed and 0.5 ml of bromofluoromethane was added thereto at −5° C. The mixture was stirred at −5° C. for 30 minutes and then stirred at 0° C. for 1 hour. The reaction mixture was added to water and extracted with ethyl acetate. The organic layer was washed with 5% hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel preparative thin layer chromatography (eluent, hexane:ethyl acetate=2:1) to give 205 mg of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(4-methylphenyl)acrylamide (the present compound 1-4).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide | 0.586 mmol, Two hundred milligrams | COC=1C=C(C=CC1OC)CCNC(C(=CO)C1=CC=C(C=C1)C)=O | C20H23NO4
reactant | sodium hydride | 0.70 mmol, 28 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | bromofluoromethane | 0.5 ml | BrCF | CH2BrF
solvent | water | O | H2O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(4-methylphenyl)acrylamide | 205 mg | COC=1C=C(C=CC1OC)CCNC(C(=COCF)C1=CC=C(C=C1)C)=O | C21H24FNO4
